US06235731B1
2) Synthesis of methyl 6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-acetate
Under nitrogen, 5.41 g (35.9 mM) of tert-butyldimethylsilyl chloride was added to a solution of 7.69 g (27.63 mM) of methyl 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetate and 2.82 g (41.4 mM) of imidazole in DMF (54 ml) at room temperature and the mixture was stirred at 0° C. for 20 hours. This reaction mixture was poured in saturated aqueous sodium hydrogen carbonate-diethyl ether under intense agitation to stop the reaction and, then, extracted with diethyl ether. The organic layer was washed with water and saturated aqueous solution of sodium chloride and dried over MgSO4. The resulting crude product was purified by column chromatography (ethyl acetate-hexane: 10%) to provide the title compound as yellow oil.

reactant | tert-butyldimethylsilyl chloride | 35.9 mM, 5.41 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methyl 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetate | 27.63 mM, 7.69 g | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)OC)C)C | C16H22O4
reactant | imidazole | 41.4 mM, 2.82 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 54 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate diethyl ether | C(O)([O-])=O.[Na+].C(C)OCC
product | methyl 6-tert-butyldimethylsiloxy-2,5,7,8-tetramethylchroman-2-acetate | O([Si](C)(C)C(C)(C)C)C=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)OC)C)C | C22H36O4Si
